US05137921
800 mg of conduritol A and 1,448 mg of m-chloroperbenzoic acid were dissolved in 120 ml of methanol and the resultant mixture was stirred at room temperature for 4 days. Then, methanol was evaporated and the remaining residue was washed thrice with 80 ml of ether to remove chlorine compounds. Ether was removed off and the residue was then dissolved in as small amount of ethanol as possible, and allowed to crystallize by cooling to -20° C. The crystals were filtered with No. 2 filter paper and dried in a dessicator over night to give 400 mg of conduritol A epoxide.

reactant | conduritol A | 800 mg | C1=C[C@@H]([C@H]([C@H]([C@@H]1O)O)O)O | C6H10O4
reactant | m-chloroperbenzoic acid | 1,448 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methanol | 120 ml | CO | CH4O
product | conduritol A epoxide | 400 mg | [C@H]1([C@@H]([C@H]([C@@H]2[C@H]([C@H]1O)O2)O)O)O | C6H10O5
